US08124557B2
Meanwhile, n-butyl lithium (26 ml, 0.042 mol) was slowly added to a solution of 1,2,3,4-tetramethylcyclopentadiene (5 g, 0.041 mol) in 100 ml of THF at −78° C. and the mixture was stirred for 2 hours. Then, the solvent was removed and the resultant product was washed with hexane and dried to obtain tetramethylcyclopentadienyl lithium (yield 76%).

reactant | n-butyl lithium | 0.042 mol, 26 ml | C(CCC)[Li]
reactant | 1,2,3,4-tetramethylcyclopentadiene | 0.041 mol, 5 g | CC1=C(C(=C(C1)C)C)C | C9H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tetramethylcyclopentadienyl lithium | yield 76% | CC1=C(C(=C(C1[Li])C)C)C | InChI=1S/C9H13.Li/c1-6-5-7(2)9(4)8(6)3;/h5H,1-4H3;
